US07060827B2
In a manner similar to the preparation of N4-(4-tert-butylphenyl)-5-fluoro-N2-[2,3-dihydro-2-(carboxy)benzofuran-5-yl]-2,4-pyrimidinediamine, N2-(2-ethoxycarbonylindol-5-yl)-5-fluoro-N4-(3-hydroxyphenyl)-2,4-pyrimidinediamine upon LiOH treatment gave N2-(2-carboxyindol-5-yl)-5-fluoro-N4-(3-hydroxyphenyl)-2,4-pyrimidinediamine. 1H NMR (CD3OD): δ 7.83 (m, 1H), 7.73 (s, 1H), 7.50 (bd, 1H, J=8.7 Hz), 7.30–7.11 (m, 5H), 6.68 (bd, 1H); LCMS: ret. time: 16.50 min.; purity: 97%; MS (m/e): 380 (MH+).

reactant | N4-(4-tert-butylphenyl)-5-fluoro-N2-[2,3-dihydro-2-(carboxy)benzofuran-5-yl]-2,4-pyrimidinediamine | C(C)(C)(C)C1=CC=C(C=C1)NC1=NC(=NC=C1F)NC=1C=CC2=C(CC(O2)C(=O)O)C1 | C23H23FN4O3
reactant | N2-(2-ethoxycarbonylindol-5-yl)-5-fluoro-N4-(3-hydroxyphenyl)-2,4-pyrimidinediamine | C(C)OC(=O)C=1NC2=CC=C(C=C2C1)NC1=NC=C(C(=N1)NC1=CC(=CC=C1)O)F | C21H18FN5O3
reactant | LiOH | [Li+].[OH-]
product | N2-(2-carboxyindol-5-yl)-5-fluoro-N4-(3-hydroxyphenyl)-2,4-pyrimidinediamine | C(=O)(O)C=1NC2=CC=C(C=C2C1)NC1=NC=C(C(=N1)NC1=CC(=CC=C1)O)F | C19H14FN5O3
